US05276207
16.7 g of 2-methyl-3-bromopropionic acid are dissolved in 50 ml of toluene, the solution obtained is cooled to 0° C., then 19.42 g of potassium rhodanide and 5 ml of water are added. The pH value of the reaction mixture is adjusted to 6.5 by the dropwise addition of 10 n sodium hydroxide. The pale yellow biphasic solution obtained is stirred at 25° C. for 48 hours while maintaining the pH value between 6.4 and 6.6 by adding further amounts of sodium hydroxide as required. The reaction mixture is cooled to 0° C. and adjusted to a pH value of 2.7 by adding 10 n sulfuric acid, then filtered and the organic phase is separated. The aqueous phase is extracted 5 times with 20 ml of toluene, the organic solutions are combined and extracted with 10 ml of water. The pale yellow toluene solution is dried over anhydrous magnesium sulfate and evaporated under reduced pressure to obtain 11.13 g /76.7%/ of 2-methyl-3-thiocyanatopropionic acid, m.p.: 24°-25° C. Based on determination by gas chromatography, the purity of the product is 98 to 99 per cent.

reactant | 2-methyl-3-bromopropionic acid | 16.7 g | CC(C(=O)O)CBr | C4H7BrO2
reactant | potassium rhodanide | 19.42 g | C(#N)[S-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 ml | O | H2O
product | 2-methyl-3-thiocyanatopropionic acid | CC(C(=O)O)CSC#N | C5H7NO2S
